US08492549B2
1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-ethylpiperidine-3-carboxylic acid ethyl ester
Prepared according to the procedure described above for 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methylpiperidine-3-carboxylic acid ethyl ester except that ethyl iodide was used instead of methyl iodide.

reactant | 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methylpiperidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CCC1)CC1COC2=C(O1)C=CC=C2)C | C18H25NO4
reactant | ethyl iodide | C(C)I | C2H5I
product | 1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-ethylpiperidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CCC1)CC1COC2=C(O1)C=CC=C2)CC | C19H27NO4
